US06313122B1
A. 2-(4-Pyridylcarbonyl)amino-N-(4-chlorophenyl)benzamide
Using the procedure described in Example 93, Part A, 2-amino-N-(4-chlorophenyl)benzamide (5 g, 20.3 mmol) and isonicotinoyl chloride hydrochloride (3.97 g, 22.3 mmol) yielded 6.48 g (91%) of the title compound.

reactant | 2-amino-N-(4-chlorophenyl)benzamide | 20.3 mmol, 5 g | NC1=C(C(=O)NC2=CC=C(C=C2)Cl)C=CC=C1 | C13H11ClN2O
reactant | isonicotinoyl chloride hydrochloride | 22.3 mmol, 3.97 g | Cl.C(C1=CC=NC=C1)(=O)Cl
product | 2-(4-Pyridylcarbonyl)amino-N-(4-chlorophenyl)benzamide | 6.48 g, 91% | N1=CC=C(C=C1)C(=O)NC1=C(C(=O)NC2=CC=C(C=C2)Cl)C=CC=C1 | C19H14ClN3O2
